US05270309
Treatment of 3-nitroacetophenone (10 g) with methyltriphenyl phosphonium bromide (28 g) and n-butyllithium in hexane (78.4 mmol), as described in Example 1a, gave 3-(1-methylethenyl)nitrobenzene (9.5 g), δ (60 MHz, CDCl3) 2.1 (3H, s, CH3), 5.2 and 5.5 (2H, 2s, CH2), 7.2 to 8.2 (4H, m, ArH). Treatment of the above 3-(1-methylethenyl)nitrobenzene (9.5 g) with hydrogen and palladium on carbon (10%, 1.9 g) as described in Example 1a, gave 3-(1-methylethyl)aniline (6.15 g), δ (60 MHz, CDCl3) 1.1 (6H, d, (CH3)2), 2.6 (1H, m, CH) 3.4 (2H, bs, NH2) and 6.1 to 7.0 (4H, m, ArH).

reactant | 3-nitroacetophenone | 10 g | CC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7NO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 78.4 mmol | CCCCCC | C6H14
catalyst | methyltriphenyl phosphonium bromide | 28 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(1-methylethenyl)nitrobenzene | 9.5 g | CC(=C)C=1C=C(C=CC1)[N+](=O)[O-] | C9H9NO2
